US04241059
A. 6-[(4-Methoxyphenoxy)methyl]-4-(phenylmethyl)-2-morpholinemethanol
6.21 G of p-methoxyphenol (0.05 mole Aldrich) is dissolved in 150 ml of dry dioxane and 0.4 g of finely cut sodium is added to the mixture. Stirring is continued for 1 hour after which all of the sodium is reacted with the phenol. Then 10.96 g (0.05 mole) N,N-bis(2,3-epoxypropyl)benzylamine is added and the mixture stirred for 1/2 hour under nitrogen. A flask is fitted with a reflux condenser and the mixture added and heated at reflux for 18 hours. After cooling to room temperature, the entire mixture is poured into 300 ml of water and stirred for 1/2 hour. The aqueous mixture is extracted with 3×125 ml portions of chloroform. The CHCl3 extracts are combined, washed with 200 ml of water and 200 ml of saturated NaCl solution. The CHCl3 layer is then dried over anhydrous NaSO4 and evaporated in vacuo to yield 15.4 g (90%) of crude product as a pale yellow oil. The oil is chromatographed on 300 g of neutral Alumina III to give 11.8 g of the title A compound (69%). The 11.8 g of product is dried in vacuo to give the title A as a clear colorless oil.

reactant | p-methoxyphenol | 0.05 mole | COC1=CC=C(C=C1)O | C7H8O2
reactant | sodium | [Na] | Na
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | N,N-bis(2,3-epoxypropyl)benzylamine | 0.05 mole, 10.96 g | O1C(CN(CC2CO2)CC2=CC=CC=C2)C1 | C13H17NO2
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
product | 6-[(4-Methoxyphenoxy)methyl]-4-(phenylmethyl)-2-morpholinemethanol | 69% | COC1=CC=C(OCC2OC(CN(C2)CC2=CC=CC=C2)CO)C=C1 | C20H25NO4
